US07888352B2
To a mixture of cis-2,6-dimethylpiperazine and triethylamine in DCM at 0° C. was added dropwise methanesulphonyl chloride and the reaction mixture stirred at room temperature overnight. After quenching with water, extraction into DCM and being washed with brine, the organics were dried and the solvent removed under reduced pressure to yield 1-Methanesulfonyl-piperazine as a pale yellow solid.

reactant | cis-2,6-dimethylpiperazine | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-Methanesulfonyl-piperazine | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
